US06117873
Dimethyl N-(2,3-dimethoxy-7-nitroquinoxalin-5-ylmethyl)-β-aminopropylphosphonate
200 mg (0.757 mmol) of 5-aminomethyl-7-nitro-2,3-dimethoxyquinoxaline, 547 mg (4.5 eq.) of magnesium sulfate and 163 mg (1.3 eq.) of dimethyl 2-oxopropylphosphonate are stirred at room temperature for 20 hours in 8 ml of dichloromethane. 4 ml of methanol, 0.095 ml of acetic acid and 52 mg (1.1 eq.) of sodium cyanoborohydride are then added and stirred for 4 hours. The reaction mixture is then filtered and the filtrate is extracted with water and brine. The organic phases are combined, dried over magnesium sulfate and evaporated. The title compound is obtained as a brown oil.

reactant | 5-aminomethyl-7-nitro-2,3-dimethoxyquinoxaline | 0.757 mmol, 200 mg | NCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H12N4O4
reactant | magnesium sulfate | 547 mg, 4.5 eq. | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | dimethyl 2-oxopropylphosphonate | 163 mg, 1.3 eq. | O=C(CP(OC)(OC)=O)C | C5H11O4P
reactant | sodium cyanoborohydride | 52 mg, 1.1 eq. | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | acetic acid | 0.095 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 4 ml | CO | CH4O
product | Dimethyl N-(2,3-dimethoxy-7-nitroquinoxalin-5-ylmethyl)-β-aminopropylphosphonate | COC1=NC2=CC(=CC(=C2N=C1OC)CNC(CP(OC)(OC)=O)C)[N+](=O)[O-] | C16H23N4O7P
